US06410585B1
5-[(2S)-2-({(2S)-2-[(tert-Butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-({2-[(2-hydroxypropyl)amino]ethyl}amino)-3-oxopropyl]-2-(carboxymethoxy)benzoic Acid
Synthesis was performed from (2S)-2-({(2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-[3-(methoxycarbonyl)-4-(2-methoxy-2-oxoethoxy)phenyl]propanoic acid and N-(2-hydroxypropyl)ethylenediamine (34 mg) according to Method B to give the title compound (26 mg). 1H-NMR (400 MHz, CD3OD) d 7.56 (d, J=2.4 Hz, 1H), 7.32 (d, J=8.8 Hz, 1H), 7.28-7.17 (m, 5H), 7.05 (d, J=8.5 Hz, 1H), 4.37 (m, 1H), 4.27 (dd, J=5.2 Hz, J=8.9 Hz, 1H), 1.35 (s, 9H), 1.22 (dd, J=1.8 Hz, J=6.3 Hz, 3H); HRMS m/z 630.2883 (calc. of monoisotopic mass for C31H42N4O10 gives 630.2901).

reactant | (2S)-2-({(2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-[3-(methoxycarbonyl)-4-(2-methoxy-2-oxoethoxy)phenyl]propanoic acid | C(C)(C)(C)OC(=O)N[C@H](C(=O)N[C@H](C(=O)O)CC1=CC(=C(C=C1)OCC(=O)OC)C(=O)OC)CC1=CC=CC=C1 | C28H34N2O10
reactant | N-(2-hydroxypropyl)ethylenediamine | 34 mg | OC(CNCCN)C | C5H14N2O
product | 5-[(2S)-2-({(2S)-2-[(tert-Butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-({2-[(2-hydroxypropyl)amino]ethyl}amino)-3-oxopropyl]-2-(carboxymethoxy)benzoic Acid | 26 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)N[C@@H](CC=1C=CC(=C(C(=O)O)C1)OCC(=O)O)C(=O)NCCNCC(C)O)CC1=CC=CC=C1 | C31H42N4O10
